Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
hypoxia, altered mental status

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ history of hypertension, ? systolic heart failure, CAD, 
prior stroke, dementia and currently at rehab at ___ 
found this morning at 8 AM with increasing confusion, low pulse 
oximetry (pOx ~ 70 on RA). Vital signs at the time were T 99.3 
HR 96 RR 24 BP 117/56 pOx 98 % on 6 L NC via non-rebreather 
mask. She was subsequently transferred to ___. No morning 
medications were given.  

Patient does report a cough for the past two days. She is unable 
to relate many other details due to dementia. 

She was recently evaluated at the ___ by Dr. ___ 
on ___ for volume depletion. 

Per nursing home records, she has no skin breakdown, last bowel 
movement was on ___. 

In the ED, initial VS were:  99.4 88 130/51 18 100% 8L. Patient 
was subsequently febrile to 102. 

CXR showed PNA for which she was treated with vanc/levo for HCAP 
as well as oseltamivir. Influenza swab ordered. 
Labs notable for:
-WBC 8 Hgb 10.8 Hct 32.3 MCV 99 Plt 221 Diff N 82 B9 L 5 
- Coags wnl
- Na 139 K 3.7 Cl 103 HCO3 24 BUN 24 Cr 0.8 Glc 115  
- cTropnT 0.06
- ABG pH 7.47 pCO2 36 pO2 74 HCO3 27 (uncertain oxygen therapy)
- Urine blood sm nit neg Protein 30 ___ neg RBC 2 WBC 2 Bacteria 
Few Epi 0 CastGr 6 CastHy 5 
- Blood and urine cultures were pending

ECG was performed:
Sinus tachycardia at 114, intervals with PR prolongation at 112 
ms, QRS 126 ms with RBBB morphology, Axes normal, TWI in V1-V4. 
No acute ischemic changes. Compared to prior dated ___, 
findings appear similar. 
  

She received:
- Acetaminophen 1000 mg PO x 1
- levofloxacin 750 mg IV x 1 
- vancomycin 1 gm IV x 1
- oseltamivir 75 mg PO x 1 
- 500 cc NS bolus x 1 for BP 77/40 and was fluid responsive. 

Patient being transferred to ICU for management of sepsis and 
hypoxia.

VS on transfer: T 101.2 77 117/42 95 on 3 L

On arrival to the MICU, she was given 500 cc NS. 

REVIEW OF SYSTEMS: Unable to obtain secondary to acute 
encephalopathy

 
Past Medical History:
- Hypertensive heart disease with history of ? systolic heart 
failure
- CAD with Angina pectoris - has not been active for several 
years per patient
- hyperlipidemia
- Hospitalization ___ for small embolic putamenal stroke, 
bacterial pneumonia and subsequent volume overload.
- Carotid stenosis
- Multifactorial gait disorder
- Choking/dysphagia
- Status post several falls
- B12 deficiency
- History of mild dementia
- Cataracts
- Peptic ulcer disease
- Esophageal ulcers
- Esophageal stricture
- Hiatal hernia
- History of fall with trauma to the head in ___ with 
small subdural left anterior temporal lobe and right frontal 
contusion.

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
admission
Vitals: 98 86  ___
General: Alert, orientedx1-2, no acute distress  
HEENT: Sclera anicteric, MM dry, oropharynx clear, poor 
denitition, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, distant heart sounds
Lungs: difficult to assess due to cooperation, ? diminished on 
right side, bibasilar rales 
Abdomen: soft, non-tender, non-distended, bowel sounds 
hypoactive, no organomegaly  
GU: foley  
Ext: warm, well perfused, 1+ pulses, no clubbing, cyanosis or 
edema, bruising on shins 
Neuro: CNII-XII intact, motor/sensation grossly intact
A&Ox1-2. Knows its Deaconess.  ___ its ___. 

Discharged: 
awake, alert, oriented to self only.
Vitals: T 98.3  HR 68 RR 16 O2 94% RA
Lungs: good air mvt, occ rhonchi throughout
 
Pertinent Results:
admission

___ 10:45AM BLOOD WBC-8.0 RBC-3.27* Hgb-10.8* Hct-32.3* 
MCV-99* MCH-33.0* MCHC-33.4 RDW-11.9 Plt ___
___ 10:45AM BLOOD ___ PTT-26.8 ___
___ 10:45AM BLOOD Glucose-115* UreaN-24* Creat-0.8 Na-139 
K-3.7 Cl-103 HCO3-24 AnGap-16
___ 11:14PM BLOOD CK(CPK)-407*
___ 11:14PM BLOOD CK-MB-5 cTropnT-0.02*
___ 10:45AM BLOOD cTropnT-0.06*
___ 11:00AM BLOOD ___ pO2-74* pCO2-36 pH-7.47* 
calTCO2-27 Base XS-2 Comment-GREEN TOP
___ 11:00AM BLOOD Lactate-1.1

studies
PORTABLE FRONTAL CHEST RADIOGRAPH:  There is a new opacity 
within the medial right lung base obscuring the right heart 
border, findings which may reflect early developing 
pneumonia/aspiration and/or congestion.  The remainder of the 
lungs are clear.  There is no interstitial edema or large 
pleural effusions.  Mediastinal and hilar contours are within 
normal limits.  Mild cardiomegaly is unchanged.  The descending 
thoracic aorta remains densely calcified though appears 
non-aneurysmal.  
IMPRESSION:  New opacity within the medial right lung base 
concerning for 
aspiration/pneumonia and/or focal vascular congestion. 
  
Nursing home labs dated ___ 05:35
WBC 5.5 MCV 102.5 Plt 202 Diff 53.8 L 33.2 M 10.3 E 2.2 B 0.5 

Na 145 K 4.1 Cl 107 HCO3 28 BUN 37 Cr 1.1 Ca 8.8 Total 5.6 (L) 
Alb 3.5 Tbili 0.7 ALP 47 ALT 21 AST 27 

Vitamin B12 ___ history of hypertension, dementia, recent fall 2 wks prior 
to current admission subsequently at ___ for 
rehabilitation who presented with hypoxia and hypotension, found 
have Influenza A and pneumonia. 

# INFLUENZA A/RML PNEUMONIA/SEPSIS: Met SIRS criteria on 
admission based on fever, bandemia, tachycardia, tachypnea; 
initially covered for HCAP w vanc/cefepime/cipro and tamiflu and 
admitted to ICU.  CXR with right side pneumonia.  Legionella 
negative, rapid flu returned positive for influenza A.  Patient 
weaned to ___ by transfer out of ICU.  Patient continued to 
improve and was breathing comfortably / satting well on room air 
by ___.  She completed a 7 day course of tamiflu and 
levofloxacin (last dose ___. 

# Hypertension/CAD: Held antihypertensives initially, restarted 
as she stabilized.  Metoprolol was changed to short acting 
tartrate so that it could be crushed. 

# Full code

# Disposition: ___ for rehabilitation. The patient's 
grandson ___ (___) to report that patient's daughter 
___ ___) no longer feels able to care for her, therefore 
the plan will ultimately be for long-term placement. The details 
of this plan are pending at the time of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO DAILY 
2. Senna 2 TAB PO HS 
3. Aspirin 325 mg PO DAILY 
4. Atorvastatin 40 mg PO DAILY 
5. Amlodipine 2.5 mg PO DAILY 
6. Lisinopril 5 mg PO DAILY 
7. Metoprolol Succinate XL 50 mg PO DAILY 
8. Lactulose 15 mL PO Frequency is Unknown 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Lactulose 15 mL PO DAILY:PRN constipation 
4. Lisinopril 5 mg PO DAILY 
5. Senna 2 TAB PO HS 
6. Amlodipine 2.5 mg PO DAILY 
7. Docusate Sodium 100 mg PO DAILY 
8. Metoprolol Tartrate 25 mg PO BID 
9. Acetaminophen 650 mg PO Q8H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Influenza A
RML bacterial pneumonia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to ___ with influenza A and pneumonia.  You 
improved with treatment and completed 7 days of medication in 
the hospital. 

You are having difficulty swallowing and should have a video 
swallow test as an outpatient once you recover from this 
illness. 
 
Followup Instructions:
___